US06544985B2
(RS)-[5-(Cyclopropylmethyl-methyl-amino)-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(cyclopropylmethyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester (Example J18) (719 mg, 2.0 mmol) and (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester (Example K5) (803 mg, 2.0 mmol) according to the general procedure M. Obtained as a yellow amorphous substance (985 mg).

reactant | [2-amino-5-(cyclopropylmethyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | 2.0 mmol, 719 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC1CC1)C(F)(F)F)N)=O | C17H24F3N3O2
reactant | (RS)-3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionic acid tert.-butyl ester | 2.0 mmol, 803 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O | C21H27N3O5
product | (RS)-[5-(Cyclopropylmethyl-methyl-amino)-2-(3-oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-[1,2,3]triazol-1-yl]-phenyl}-propionylamino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC1CC1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=NC=C1COC1OCCCC1)=O)=O)=O | C34H41F3N6O6
